US04056521
2,2,2-Trichloroethyl 2-(1-methyl-1H-tetrazol-5-yl)thiomethyl-2-methyl-6-[3-(2-chlorophenyl)-5-methylisoxazole-4-carboxamido]penam-3-carboxylate (0.67 g) was dissolved in dimethylformamide (5 ml). To this solution were added acetic acid (0.8 ml) and zinc powder (0.7 g) under cooling at -15° C and the mixture was stirred for 2 hours at the same temperature. After the reaction, zinc powder was filtered off and the filtrate was poured into 5% hydrochloric acid (20 ml) and then extracted with ethyl acetate. The extract was washed with water, dried and the solvent was distilled off. The residue was dissolved in methanol (0.8 ml) and to this solution was added a solution of N,N'-dibenzylethylenediamine diacetate (0.18 g) in water (5 ml) and precipitates were collected by filtration, washed with water and dried to give N,N'-dibenzylethylenediamine 2-(1-methyl-1H-tetrazol-5-yl)thiomethyl-2-methyl-6-[3-(2-chlorophenyl)-5-methylisoxazole-4-carboxamido]penam-3-carboxylate (0.24 g), mp. 117° to 119° C (dec.).

reactant | 2,2,2-Trichloroethyl 2-(1-methyl-1H-tetrazol-5-yl)thiomethyl-2-methyl-6-[3-(2-chlorophenyl)-5-methylisoxazole-4-carboxamido]penam-3-carboxylate | 0.67 g | CN1N=NN=C1SCC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(=O)C=2C(=NOC2C)C2=C(C=CC=C2)Cl)=O)C | C23H21Cl4N7O5S2
reactant | acetic acid | 0.8 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | zinc | 0.7 g | [Zn] | Zn
product | N,N'-dibenzylethylenediamine 2-(1-methyl-1H-tetrazol-5-yl)thiomethyl-2-methyl-6-[3-(2-chlorophenyl)-5-methylisoxazole-4-carboxamido]penam-3-carboxylate | 0.24 g | CN1N=NN=C1SCC1(S[C@H]2N(C1C(=O)O)C(C2NC(=O)C=2C(=NOC2C)C2=C(C=CC=C2)Cl)=O)C.C(C2=CC=CC=C2)NCCNCC2=CC=CC=C2 | InChI=1S/C21H20ClN7O5S2.C16H20N2/c1-9-12(13(25-34-9)10-6-4-5-7-11(10)22)16(30)23-14-17(31)29-15(19(32)33)21(2,36-18(14)29)8-35-20-24-26-27-28(20)3;1-3-7-15(8-4-1)13-17-11-12-18-14-16-9-5-2-6-10-16/h4-7,14-15,18H,8H2,1-3H3,(H,23,30)(H,32,33);1-10,17-18H,11-14H2/t14?,15?,18-,21?;/m1./s1
